US07531532B2
3-[6-(4-Amino-2-fluorophenoxy)pyrimidin-4-yl]-1,1-dimethylurea
3-[6-(2-Fluoro-4-nitrophenoxy)pyrimidin-4-yl]-1,1-dimethylurea (227 mg) was dissolved in ethanol (15 ml)-water (3 ml), and then electrolytic iron powder (230 mg) and ammonium chloride (460 mg) were added thereto, followed by heating under reflux for 30 min. The reaction mixture was cooled down to room temperature, and ethyl acetate-tetrahydrofuran (1:1) was then added thereto, followed by stirring. The reaction mixture was filtered through celite to remove an insoluble portion, which was washed with ethyl acetate and water. The organic layer of the filtrate was washed with water and brine in this order, and dried over anhydrous sodium sulfate. The solvent was evaporated under a reduced pressure to give a residue, which was then purified by silica gel column chromatography (eluent; hexane:ethyl acetate=1:3). Fractions containing the target compound were concentrated under a reduced pressure to give a residue, which was suspended in diethyl ether (4 ml)-hexane (4 ml). The solid was filtered and dried under aeration to provide the titled compound (172 mg, 83.4%) as a pale yellow solid.

reactant | 3-[6-(2-Fluoro-4-nitrophenoxy)pyrimidin-4-yl]-1,1-dimethylurea | 227 mg | FC1=C(OC2=CC(=NC=N2)NC(N(C)C)=O)C=CC(=C1)[N+](=O)[O-] | C13H12FN5O4
reactant | ammonium chloride | 460 mg | [Cl-].[NH4+]
reactant | ethyl acetate tetrahydrofuran | C(C)(=O)OCC.O1CCCC1
reactant | hexane | 4 ml | CCCCCC | C6H14
solvent | ethanol | 15 ml | C(C)O | C2H6O
solvent | water | 3 ml | O | H2O
solvent | diethyl ether | 4 ml | C(C)OCC | C4H10O
catalyst | iron | 230 mg | [Fe] | Fe
product | 3-[6-(4-Amino-2-fluorophenoxy)pyrimidin-4-yl]-1,1-dimethylurea | 172 mg, 83.4% | NC1=CC(=C(OC2=CC(=NC=N2)NC(N(C)C)=O)C=C1)F | C13H14FN5O2
